US04888341
1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-[2-(2-hydroxyethyldithio)ethoxy]azirino[2',3':3,4]pyrrolo[1,2-a]indole-4,7-dione carbamate
A solution of mitomycin A (100 mg or 0.286 mmole) in 4 ml of 2-hydroxyethyldisulphide was stirred at room temperature and under nitrogen for 45 minutes with 240 mg of a 1.6% solution of KOH in 2-hydroxyethyldisulphide. The reaction mixture was decomposed with excess dry ice while immersing the flask into a water bath at room temperature. The reaction mixture was chromatographed on a silica gel column using CHCl3 -acetone 1:1 and the CHCl3 -MeOH 9:1 as solvent systems. The product was further purified by preparative thin layer chromatography on silica gel using CHCl3 -acetone 3:7. Thus, there was obtained 23 mg (44%) of the desired product, having a melting point of 87°-95° C. (decomposition) and providing the following analysis:

reactant | mitomycin A | 0.286 mmole, 100 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
reactant | KOH | [OH-].[K+]
reactant | dry ice | C(=O)=O | CO2
reactant | 2-hydroxyethyldisulphide | 4 ml | OCCSSCCO | C4H10O2S2
product | 1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-[2-(2-hydroxyethyldithio)ethoxy]azirino[2',3':3,4]pyrrolo[1,2-a]indole-4,7-dione carbamate | 23 mg, 44% | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)OCCSSCCO)C)=O)CC1C2N1)OC | InChI=1S/C18H24N2O6S2.CH3NO2/c1-9-14(23)13-12(15(24)16(9)26-4-6-28-27-5-3-21)10(8-22)18(25-2)17-11(19-17)7-20(13)18;2-1(3)4/h10-11,17,19,21-22H,3-8H2,1-2H3;2H2,(H,3,4)
